Q1         VC VB 0 QECL
RB         VCC VB  12.1k TC=0,0
RC         VC VCC  1.35k TC=0,0
V1         VCC 0 5Vdc
.model QECL	NPN(Is=0.26fA Bf=100 Br=1 Tf=0.1ns Cje=1pF Cjc=1.5pF Va=100)

.OP
