V_sup         VCC 0 2
M4         VCC VCC V2 V2 NMOS0P5
+ L=0.5u
+ W=0.5u
+ M=1
M1         V1 V1 0 0 NMOS0P5
+ L=0.5u
+ W=0.5u
+ M=1
M2         VCC VCC V1 V1 NMOS0P5
+ L=0.5u
+ W=0.5u
+ M=1
M3         V2 V1 0 0 NMOS0P5
+ L=0.5u
+ W=0.5u
+ M=1

.model NMOS0P5	NMOS(Level=1 VTO=0.5 GAMMA=0.5 PHI=0.8
+		LD=0 WD=0 UO=1100 LAMBDA=0.00001 TOX=9.5E-9 PB=0.9 CJ=0.57E-3
+		CJSW=120E-12 MJ=0.5 MJSW=0.4 CGDO=0.4E-9 JS=10E-9 CGBO=0.38E-9
+		CGSO=0.4E-9)



.OP
.END
